US07671080B2
trans-5-Cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid (4-hydroxy-cyclohexyl)amide
The title compound was prepared using 5-cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid [prepared from 3-(trifluoromethoxy)benzyl bromide and ethyl 5-cyanoindole-2-carboxylate] and trans-4-aminocyclohexanol hydrochloride in a manner similar to that described in Example 11 but using 1,3-diisopropylcarbodiimide instead of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide.

reactant | 5-cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid | C(#N)C=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)OC(F)(F)F)C(=O)O | C18H11F3N2O3
reactant | trans-4-aminocyclohexanol hydrochloride | Cl.N[C@@H]1CC[C@H](CC1)O
reactant | 1,3-diisopropylcarbodiimide | C(C)(C)N=C=NC(C)C | C7H14N2
product | trans-5-Cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid (4-hydroxy-cyclohexyl)amide | O[C@@H]1CC[C@H](CC1)NC(=O)C=1N(C2=CC=C(C=C2C1)C#N)CC1=CC(=CC=C1)OC(F)(F)F | C24H22F3N3O3
